US08865712B2
b) 4-(6-Bromo-pyridin-2-yl)-4-methyl-2,2-dioxo-2lambda*6*-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester
To a solution of 4-(6-bromo-pyridin-2-yl)-4-methyl-2-oxo-2lambda*4*-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester (8.83 g, 23.4 mmol) in acetonitrile (60 ml) and H2O (30.0 ml) was added RuCl3 hydrate (0.971 g, 4.68 mmol) and NaIO4 (10.01 g, 46.8 mmol). The reaction mixture was stirred at 0° C. for 2 h. H2O and DCM were added, the phases were separated and the aq. phase was twice reextracted with DCM. The combined org. phases were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was dissolved in DCM and filtered through silica gel, the filtrate was evaporated and the residue was triturated with TBME (10 ml) and n-hexane (100 ml). The resulting precipitate was filtered and washed with n-hexane to yield the title compound as a colourless crystalline solid. HPLC RtH4=1.16 min; ESIMS: 393, 395 [(M+H)+]; 1H NMR (400 MHz, CDCl3): δ 7.63-7.59 (m, 1H), 7.47-7.42 (m, 2H), 4.73 (d, 1H), 4.47 (d, 1H), 2.00 (s, 3H), 1.52 (s, 9H).

reactant | 4-(6-bromo-pyridin-2-yl)-4-methyl-2-oxo-2lambda*4*-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 23.4 mmol, 8.83 g | C(C)(C)(C)OC(=O)N1S(OCC1(C)C1=NC(=CC=C1)Br)=O | C13H17BrN2O4S
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | H2O | 30.0 ml | O | H2O
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 4-(6-Bromo-pyridin-2-yl)-4-methyl-2,2-dioxo-2lambda*6*-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(OCC1(C)C1=NC(=CC=C1)Br)(=O)=O | C13H17BrN2O5S
